US04760192
n-Butyryl chloride (2.3 g; 21.7 mmole) and then pyridine (1.7 g; 21.7 mmole) were added to a stirred mixture of 3-hydroxy-5-mesitylcyclohex-2-en-1-one (5.0 g; 21.7 mmole) and dichloromethane (50 ml) under a nitrogen atmosphere. The mixture was stirred at room temperature for a period of two hours and then poured into slightly acidic water. The organic phase was separated and the aqueous phase was thoroughly extracted with dichloromethane. The combined organic phase and extracts were washed with water, dried over anhydrous magnesium sulfate and the solvent was removed by evaporation under reduced pressure using a rotary evaporator. The residue was dissolved in 1,2-dichloroethane (50 ml), stannic chloride (5.7 g; 22 mmole) was added and the mixture was heated under reflux for a period of 8 hours. The mixture was cooled and poured into water and the aqueous mixture was extracted several times with dichloromethane. The combined organic extracts were dried over anhydrous magnesium sulfate and the solvent was removed by evaporation under reduced pressure using a rotary evaporator. The residue was purified by chromatography over silica gel (eluant dichloromethane) to give 2-butyryl-3-hydroxy-5-mesitylcyclohex-2-en-1-one (2.4 g). Proton nuclear magnetic resonance spectrum (CDCl3 : δ in ppm): 1.01 (3H, t); 1.30-1.60 (2H, m); 2.23 (3H, s); 2.37 (6H, s); 2.40-3.45 (7H, m); 6.83 (2H, s); 18.24 (1H, s).

reactant | n-Butyryl chloride | 21.7 mmole, 2.3 g | CCCC(=O)Cl | C4H7ClO
reactant | pyridine | 21.7 mmole, 1.7 g | N1=CC=CC=C1 | C5H5N
reactant | 3-hydroxy-5-mesitylcyclohex-2-en-1-one | 21.7 mmole, 5.0 g | OC1=CC(CC(C1)C1=C(C=C(C=C1C)C)C)=O | C15H18O2
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-butyryl-3-hydroxy-5-mesitylcyclohex-2-en-1-one | 2.4 g | C(CCC)(=O)C=1C(CC(CC1O)C1=C(C=C(C=C1C)C)C)=O | C19H24O3
